US06417192B1
To 8-bromo-1-(4-chlorophenyl)octan-1-one (4.0 g) in ethanol (170 ml) was added 3% aqueous sodium hydroxide (70 ml). The mixture was heated at reflux for 3 h, cooled and evaporated to one third volume. Water (50 ml) and dichloromethane (100 ml) were added. The organic layer was separated and the aqueous layer was re-extracted with dichloromethane (2×50 ml). The combined extracts were washed with water (30 ml) and dried over magnesium sulphate. The solvent was removed under reduced pressure and the residue was crystallised from 40-60° C. petroleum ether to give 8-hydroxy-1-(4-chlorophenyl)octan-1-one (1.0 g). 1H-NMR (CDCl3) δ 1.25-1.9 (10H, m), 2.94 (2H, t), 3.64 (2H, t), 7.43 (2H, m) and 7.89 (2H, m). (EI) Found M+=254. C14H19ClO2 requires 254.

reactant | 8-bromo-1-(4-chlorophenyl)octan-1-one | 4.0 g | BrCCCCCCCC(=O)C1=CC=C(C=C1)Cl | C14H18BrClO
reactant | sodium hydroxide | 70 ml | [OH-].[Na+]
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | 8-hydroxy-1-(4-chlorophenyl)octan-1-one | 1.0 g | OCCCCCCCC(=O)C1=CC=C(C=C1)Cl | C14H19ClO2
